spice
* SPICE Netlist for the Circuit
VIN 2 0 DC 0V
VDD 6 0 DC 5V
M1 4 2 8 8 NMOS
M2 5 4 8 8 NMOS
M3 3 5 6 6 PMOS
? Missing component
R1 3 0 1k
.model NMOS nmos
.model PMOS pmos
